US05807860
Diethylene glycol (100 ml), water (60 ml), and 85% potassium hydroxide (32 g, 0.485 mol) were added to β, β-dibromo-5-bromo-2,3-methylenedioxystyrene (42.36 g, 0.11 mol), and the mixture was heated with stirring under reflux for 2 hours. The reaction mixture was poured into ice water and extracted with toluene. The extract was washed with water and dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The residue was recrystallized from ethyl acetate (80 ml) and hexane (300 ml) to give 5-bromo-2,3-methylenedioxyphenylacetic acid (25.35 g).

reactant | Diethylene glycol | 100 ml | C(COCCO)O | C4H10O3
reactant | potassium hydroxide | 0.485 mol, 32 g | [OH-].[K+]
reactant | β, β-dibromo-5-bromo-2,3-methylenedioxystyrene | 0.11 mol, 42.36 g | BrC(=CC1=C2C(=CC(=C1)Br)OCO2)Br | C9H5Br3O2
solvent | water | 60 ml | O | H2O
product | 5-bromo-2,3-methylenedioxyphenylacetic acid | 25.35 g | BrC=1C=C2C(=C(C1)CC(=O)O)OCO2 | C9H7BrO4
